US07226938B2
(3-Methyl-piperazin-1-yl)-(4H-thieno[3,2-b]pyrrol-5-yl)-methanone
4H-Thieno[3,2-b]pyrrole-5-carboxylic acid (50 mg, 0.30 mmol) was coupled with 2-methylpiperazine according to Procedure D to provide the title compound (58 mg, 78%) as an off-white solid. TLC (silica, 10% MeOH/CH2Cl2): Rf=0.15. MS (electrospray): exact mass calculated for C12H15N3OS, 249.09; m/z found, 250.1 [M+H]+. 1H NMR (CD3OD, 400 MHz): 7.33 (d, J=5.3 Hz, 1H), 6.98 (d, J=5.3 Hz, 1H), 6.88 (s, 1H), 4.62-4.56 (m, 2H), 3.50-3.20 (m, 5H), 1.36 (d, J=6.6 Hz, 3H).

reactant | 4H-Thieno[3,2-b]pyrrole-5-carboxylic acid | 0.30 mmol, 50 mg | S1C=CC=2NC(=CC21)C(=O)O | C7H5NO2S
reactant | 2-methylpiperazine | CC1NCCNC1 | C5H12N2
product | (3-Methyl-piperazin-1-yl)-(4H-thieno[3,2-b]pyrrol-5-yl)-methanone | 58 mg, 78% | CC1CN(CCN1)C(=O)C1=CC2=C(N1)C=CS2 | C12H15N3OS
